US04150139
The reaction of 9-methoxy-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine with sodium methoxide yielded 3,9-dimethoxy-11H-s-triazolo[3,4-b][3]benzazepine. Colorless needles (as recrystallized from aqueous acetone), melting point: 176°-177° C.

reactant | 9-methoxy-3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine | COC1=CC2=C(C=CN3C(C2)=NN=C3S(=O)(=O)C)C=C1 | C13H13N3O3S
reactant | sodium methoxide | C[O-].[Na+]
product | 3,9-dimethoxy-11H-s-triazolo[3,4-b][3]benzazepine | COC1=NN=C2CC3=C(C=CN21)C=CC(=C3)OC | C13H13N3O2
